US07214673B2
(S)-8-Fluoro-11-{3-[2-(4-fluoro-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-2-isopropyl-5H-dibenzo[b,e][1,4]diazepine succinate
Dissolve (S)-8-fluoro-11-{3-[2-(4-fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-isopropyl-5H-dibenzo[b,e][1,4]diazepine (0.066 g, 0.14 mmol) in dichloromethane (8 ml). Add sodium triacetoxyborohydride (0.091 g, 0.43 mmol) and formaldehyde (0.009 g, 0.29 mmol, 0.023 g of a 37% aqueous solution) and stir the mixture for one hour at ambient temperature. Dilute the mixture with brine and extract three times with dichloromethane. Combine the organic layers, dry over sodium sulfate and remove the solvent under reduced pressure. Purification via flash chromatography, eluting with a step gradient starting with 100% of a stock mixture of 70% hexanes with 30% dichloromethane and going to 90% of the stock mixture with 10% 2M ammonia in methanol, gives the free base of the title compound (0.032 g, 0.07 mmol, 47% yield) as a yellow foam. Convert to the succinate salt as described previously: Mass Spectrum (m/e): 475(M+1).

reactant | (S)-8-fluoro-11-{3-[2-(4-fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-isopropyl-5H-dibenzo[b,e][1,4]diazepine | 0.14 mmol, 0.066 g | FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N3C[C@@H](NCC3)CCC3=CC=C(C=C3)F)C1 | C28H30F2N4
reactant | sodium triacetoxyborohydride | 0.43 mmol, 0.091 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | brine | [Cl-].[Na+].O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (S)-8-Fluoro-11-{3-[2-(4-fluoro-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-2-isopropyl-5H-dibenzo[b,e][1,4]diazepine succinate | 0.07 mmol, 0.032 g, 47% yield | C(CCC(=O)O)(=O)O.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N3C[C@@H](N(CC3)C)CCC3=CC=C(C=C3)F)C1 | InChI=1S/C29H32F2N4.C4H6O4/c1-19(2)21-7-12-26-25(16-21)29(33-28-17-23(31)10-13-27(28)32-26)35-15-14-34(3)24(18-35)11-6-20-4-8-22(30)9-5-20;5-3(6)1-2-4(7)8/h4-5,7-10,12-13,16-17,19,24,32H,6,11,14-15,18H2,1-3H3;1-2H2,(H,5,6)(H,7,8)/t24-;/m0./s1
